Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Depression with suicidal ideation
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
History was noted from Dr. ___ consult note from ___, and subsequent psychiatry
CL notes in OMR, confirmed with patient and updated as relevant:

Briefly, ___ is a ___ year old ___ speaking woman
with a history of major depressive disorder, panic disorder,
agoraphobia, and several suicide attempts in the past who
presented to the ___ ___ on a ___ written by her
outpatient psychiatrist at ___ due to suicidal ideation.

On the day of presentation the patient had her first appointment
with a new psychiatrist at ___. During that appointment she
reported suicidal ideation with plan to cut herself with a knife
along with worsening depressed mood with marked isolative
behavior, depressed mood, hopelessness, and poor self-care. She
has had active suicidal ideation for nearly one week. Last week
she attempted to overdose in a suicide attempt by taking four of
her prescribed Clonazepam pills. While in the ___ she reported
wishing she had taken more so the attempt would have been
successful. On arrival to the floor she stated she felt "bad"
about this attempt but would not elaborate further about her
current view. This past weekend, the patient's daughter alerted
EMS to the patient's worsening symptoms but patient refused to
come to the hospital when they arrived. It is not clear if that
call happened after the overdose or at another time.

On arrival to the psychiatric unit the patient denies suicidal
ideation but does note persistent thoughts about hurting herself
which she reports she will not act on (due to her need to care
for her children). She is not sure if she will be safe on the
unit due to generalized anxiety about her poor health. She does
note that she would tell unit staff if she began to feel that 
she
would harm herself.

Prior to the appointment on the day of presentation the patient
had missed several appointments and had not been seen by ___
providers for months. Per the ___ note, the patient has
an extensive history of trauma including sexual assault 
committed
by close family member and verbal/emotional abuse by other 
family
members. She had also had worsening depressive symptoms 
mentioned
above which have led to increasing isolation and hopelessness.
Additionally she notes that on the day prior to presentation she
experienced elevated mood due to a visit from a friend. She
denies other symptoms consistent with mania including
impulsivity, grandiosity, decreased need for sleep, or
inappropriately elevated mood. She denies symptoms consistent
with psychosis including hallucinations, delusions, or paranoia.

Psych ROS: As per HPI.  
___ Course: The patient was reportedly very tearful and
occasionally "hysterical" while in the ___. At one point early in
the evening she was found sitting on the ground and "banging her
head against the wall." She responded well to Lorazepam (2mg PO
x1) and was more calm and cooperative afterwards, though 
remained
quite tearful.
  
 
Past Medical History:
AST PSYCHIATRIC HISTORY: Per ___ note (___),
confirmed with patient and updated as relevant:
- Hospitalizations: None
- Current treaters and treatment:
-- Dr. ___ (___, 
___.
First appointment was day of presentation and resulted in 
patient
being placed on ___.
-- Formerly by treated by Dr. ___ at ___
-- Therapist: ___ at ___ ___.
- Current Medication: Wellbutrin, Amitriptyline, Clonazepam (as
below)
- Self-injury: Several suicide attempts; one via overdose last
week (as above), one via hanging and/or strangulation at ___,
one via jumping from roof of a house at ___. 
- Access to weapons: Denies

PAST MEDICAL HISTORY: Per ___ note (___), confirmed
with patient and updated as relevant:
- Obesity
- PCP: Dr. ___ (___ 
___

 
Social History:
SUBSTANCE USE HISTORY: Denies using alcohol, illicit drugs, or
tobacco. Per ___ note (___) the patient "drinks
coffee all day long."

FORENSIC HISTORY: ___
SOCIAL HISTORY: Per ___ note (___), confirmed with
patient and updated as relevant:
- B/R: ___. Moved to US at ___
- Family: Youngest of ___, with six half-siblings on her 
mother's
side and 3 full from her parents.
- Childhood: Described as "awful" with physical, sexual and
emotional abuse.
- Trauma: Reports she was raped by older half brother when she
was ___ and he was ___. Mother blames the patient for this event 
and
has continued to emotionally abuse her. This brother has
threatened her life if she returns to the ___.
- Education: Completed school through the 12 grade.
- Employment: ___
- Relationships: Married before she left ___,
left her husband there. Has a partner here, who lives in the
basement of her home in ___ and they are somewhat estranged
but he has been helping take care of the home and the children.
- Children: Three children ages ___ yo, {by her husband} and ___
and a ___ yo by her partner. 
 
 
Family History:
FAMILY PSYCHIATRIC HISTORY: Per ___ note (___),
confirmed with patient and updated as relevant:
- Schizophrenia in paternal aunt who was reportedly hospitalized
for ___ years.
- Unspecified psychiatric illness in cousin.

 
Physical Exam:
 Exam:
  Neurological:
     *Station and gait: normal station and gait
     *Tone and strength: moves all four extremities 
spontaneously
against gravity
      Movements: no adventitious movements noted
             

  Mental status: 
   *Appearance:  Adult Hispanic woman, appearing stated age,
dressed in hospital gown, in no acute distress.
    Behavior: Cooperative with interview. Makes good eye 
contact.
   *Mood and Affect: "okay" / Appears euthymic and energized
   *Thought process: Linear, goal-oriented
   *Thought Content: Denies SI/HI/AVH
   *Judgment and Insight: Fair / Fair
   
  Cognitive:
     *Attention, *orientation, and executive function: Attentive
 to interview, oriented to context and history
     *Memory: Intact to history
     *Fund of knowledge: Appropriate
     *Speech: Regular rate, rhythm, and volume.
     *Language: Fluent ___
 
Pertinent Results:
___ 05:50PM   GLUCOSE-113* UREA N-9 CREAT-0.8 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
___ 05:50PM   estGFR-Using this
___ 05:50PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:50PM   WBC-7.4 RBC-3.92 HGB-12.2 HCT-36.2 MCV-92 
MCH-31.1 MCHC-33.7 RDW-12.1 RDWSD-40.8
___ 05:50PM   NEUTS-57.4 ___ MONOS-7.8 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-4.25 AbsLymp-2.43 AbsMono-0.58 
AbsEos-0.08 AbsBaso-0.04
___ 05:50PM   PLT COUNT-181
___ 01:44PM URINE  HOURS-RANDOM
___ 01:44PM URINE  HOURS-RANDOM
___ 01:44PM URINE  GR HOLD-HOLD
___ 01:44PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:44PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:44PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:44PM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-5 TRANS EPI-<1
___ 01:44PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission. She signed a 3-day notice on the day 
following her admission, which terminated on ___, and was 
discharged on this day.

2. PSYCHIATRIC:
#) Adjustment disorder with depressed mood 
#) Complex PTSD associated with sexual trauma
Patient was admitted having endorsed a suicide attempt via 
ingestion of 4 clonezepam, with suicidal intent. She had been 
acutely stressed due to her sick and aging parents having 
decided to stay with her for an extended period of time as they 
visited ___ from ___ in order to seek medical care at 
the ___. The patient found it extremely 
difficult to cope with two sick parents and three children at 
home, and the presence of her parents exacerbated her complex 
PTSD (associated with sexual abuse as a girl ages ___ by her 
half brother ___ in ___). Her complex 
PTSD was particularly exacerbated as she had tried to explain 
her history of abuse to her parents and seek support, but they 
did not believe her, or claimed she may have enjoyed the sexual 
contact, and were not supportive, leading her to feel angry and 
isolated.

The patient was tearful, depressed, and despondent upon 
admission. We discontinued amitryptiline given concern for 
overdose/suicidal behavior (patient attempted to overdose on 
clonezepam several days prior to admission); it was decided to 
d/c drugs, such as TCA's, that could be lethal on overdose. We 
discontinued bupropion as patient felt it was contributing to 
poor sleep and anxiety. The patient was started on mirtazapine, 
to aid with sleep and depressive ssx, discharge dose was 30mg 
qHS and was tolerated well.

By the second day of her admission, it was noticed that the 
patient was suddenly in a much improved mood, which was thought 
to be partially from the withdrawal of the stressful stimulus of 
being at home with her parents, but also worrisome for mood 
lability. Given concern for mood lability, likely secondary to 
personality traits and coping skill deficiency (without frank 
manic-type ssx on the inpatient unit or per history), lithium 
300mg TID was started on the inpatient unit but discontinued 
prior to discharge, as the patient reported GI distress and 
vomiting on the drug, refused to take further doses.

It was recommended she follow up with outpatient psychiatry to 
address whether a mood stabilizing agent would be beneficial to 
her. She refused quetiapine given concern for weight gain. 
Valproic acid is a recommended consideration, and the patient 
uses an IUD for birth control, making this a realistic 
possibility. 

3. SUBSTANCE USE DISORDERS:
#) Patient denied active substance use.

4. MEDICAL
#) No acute medical issues addressed during inpatient 
psychiatric stay.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
___ patient's MMHC therapist, who was present on 
the unit on ___ and met with the team
___, MD; who saw the patient for an outpatient 
psychiatry intake before referring the patient to the ___ Dr. 
___ was kept up to date via email and advised with the team 
regarding treatment options. Patient's partner and family often 
visited the unit and provided support to the patient. The 
patient's partner met with the patient and treatment team, 
supporting the patient as she engaged in psychotherapeutic 
interventions.

#) INTERVENTIONS
- Medications: 
-- discontinued amitryptiline given concern for 
overdose/suicidal behavior (patient attempted to overdose on 
clonezepam several days prior to admission; it was decided to 
d/c drugs, such as TCA's, that could be lethal on overdose.
-- discontinued bupropion as patient felt it was contributing to 
poor sleep and anxiety
-- patient started on mirtazapine, to aid with sleep and 
depressive ssx, discharge dose was 30mg qHS and was tolerated 
well
-- given concern for mood lability, likely secondary to 
personality traits and coping skill deficiency (without frank 
manic-type ssx on the inpatient unit or per history), lithium 
300mg TID was started on the inpatient unit but discontinued 
prior to discharge, as the patient reported GI distress and 
vomiting on the drug, refused to take further doses.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Appointments made with ___, 
___ for ___, and Dr. ___ for ___
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
encouraged medication compliance, trained in coping skills as 
part of coping skills groups, encouraged use of social supports
-Guardianships:N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
reported active suicidal ideation with suicidal gesture / 
attempt made several days prior to admission with ingestion of 4 
clonazepam (patient thought it would be enough to end her life). 
 Their static factors noted at that time include history of 
abuse, chronic mental illness, age, marital status, the presence 
of a maladaptive personality by starting new medications and 
discontinuing medications that could be used to overdose, 
ranging for outpatient follow up and encouraging a more 
consistent relationship with outpatient treaters, encouraging 
adaptive coping skills and discussing coping strategies for use 
in a stressful home environment.  Finally, the patient is being 
discharged with many protective risk factors,  Overall, ***Based 
on the totality of our assessment at this time, the patient is 
not at an acutely elevated risk of self-harm nor danger to 
others. 

Our Prognosis of this patient is, guarded, but will be 
contingent on consistent aftercare and patient compliance with 
medications and regular follow up with therapy weekly.

MODIFIABLE RISK FACTORS
**suicidal ideation with intent/plan, mood lability, medication 
noncompliance, lack of engagement with outpatient  impulsivity,  
and recent acute psychosocial stress due to sick/aging parents 
staying with her for an extended time.

PROTECTIVE RISK FACTORS
 ***help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, children in the home, life 
satisfaction,, no history of substance use disorder, Thus, we 
feel the patient does not meet section 12a criteria for risk of 
harm to self/others and is appropriate for discharge as she has 
signed a C.V. admission agreement and had provided a 3-day 
notice, which expired today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 100 mg PO QHS 
2. BuPROPion 100 mg PO BID 
3. ClonazePAM 2 mg PO QHS 

 
Discharge Medications:
1. Mirtazapine 30 mg PO QHS 

1. Mirtazapine 30 mg PO QHS 
RX *mirtazapine 30 mg 1 tablet(s) by mouth before bedtime each 
night Disp #*30 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood
 
Discharge Condition:
Denies suicidal or homicidal ideation, denies auditory or visual 
hallucinations. Oriented to person, place, and time.
 
Discharge Instructions:
You were hospitalized at ___ for depression.  We adjusted your 
medications, and you are now ready for discharge and continued 
treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___